US08222414B2
Step A: 2,2-Dimethyl-propionic acid (R)-2-[7-cyclopentylamino-5-(2,2-dimethyl-propionyloxymethyl)-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl-methyl ester
2,2-Dimethyl-propionic acid (R)-2-[5-(2,2-dimethyl-propionyloxymethyl)-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl-methyl ester prepared in Preparation 43 and cyclopentanone were reacted according to the same procedure as Example 1 to give the title compound.

reactant | 2,2-Dimethyl-propionic acid (R)-2-[5-(2,2-dimethyl-propionyloxymethyl)-7-nitro-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl-methyl ester | CC(C(=O)OCC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C=1SC[C@H](N1)COC(C(C)(C)C)=O)(C)C | C23H29N3O6S
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 2,2-Dimethyl-propionic acid (R)-2-[7-cyclopentylamino-5-(2,2-dimethyl-propionyloxymethyl)-1H-indol-2-yl]-4,5-dihydro-thiazol-4-yl-methyl ester | C1(CCCC1)NC=1C=C(C=C2C=C(NC12)C=1SC[C@H](N1)COC(C(C)(C)C)=O)COC(C(C)(C)C)=O | C28H39N3O4S
